US07560558B2
5-Fluoro-1H-indole-2,3-dione (1.19 g) and 2-hydroxy-1-phenyl-ethanone (2.25 g) were dissolved in methanol (70 ml) to prepare a solution. Sodium hydroxide (4.82 g) and water (30 ml) were added to the solution, and the mixture was stirred at room temperature overnight. Dilute hydrochloric acid was added to the reaction solution, and the precipitated crystal was washed with methanol and water to give 6-fluoro-3-hydroxy-2-phenyl-quinoline-4-carboxylic acid (427 mg, yield 21%).

reactant | 5-Fluoro-1H-indole-2,3-dione | 1.19 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | 2-hydroxy-1-phenyl-ethanone | 2.25 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | Sodium hydroxide | 4.82 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | water | 30 ml | O | H2O
solvent | methanol | 70 ml | CO | CH4O
product | 6-fluoro-3-hydroxy-2-phenyl-quinoline-4-carboxylic acid | 427 mg, yield 21% | FC=1C=C2C(=C(C(=NC2=CC1)C1=CC=CC=C1)O)C(=O)O | C16H10FNO3
